US05516774
4-[2-(2-Chlorophenyl]-2-oxoethyl]benzoic acid
A mixture of 18.78 g of methyl 4-[2-(2-chlorophenyl)-2-oxoethyl]benzoate in 288.8 ml of CH3OH, 72.2 ml of water and 5.2 g of NaOH is refluxed for 3 hours then acidified with 2N citric acid. The reaction mixture is evaporated in vacuo to remove the CH3OH. The aqueous phase is extracted with CH2Cl2 and acidified with 1N HCl. The resulting solid is collected and dried under vacuum to give 17.27 g of the desired product, m.p. 168°-172° C.

reactant | methyl 4-[2-(2-chlorophenyl)-2-oxoethyl]benzoate | 18.78 g | ClC1=C(C=CC=C1)C(CC1=CC=C(C(=O)OC)C=C1)=O | C16H13ClO3
reactant | NaOH | 5.2 g | [OH-].[Na+]
reactant | citric acid | 2N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH3OH | 288.8 ml | CO | CH4O
solvent | water | 72.2 ml | O | H2O
product | 4-[2-(2-Chlorophenyl]-2-oxoethyl]benzoic acid | 17.27 g | ClC1=C(C=CC=C1)C(CC1=CC=C(C(=O)O)C=C1)=O | C15H11ClO3
